US05082967
9-Oxa-12-thiatetradecanoic Acid
A solution of the above ethyl 2-ethoxycarbonyl-9-oxa-12-thiatetradecanoate (2 g, 5.8 mmol) in 20% NaOH (10 mL) was refluxed for 6 h. The solution was acidified with HCl (pH 2), and extracted with ethyl acetate (120 mL). The organic phase was washed with water (2×30 mL), brine (30 mL) and dried (Na2SO4). After evaporation of the solvent, the resulting product was heated on an oil bath at 180° C. to 200° C. for 15 min. The crude product was purified by Kugelrohr distillation to afford the title compound, 9-oxa-12-thiatetradecanoic acid (1.4 g, 98%); bp 121° C.-125° C./0.005 torr; IR(neat):3020 (broad) and 1730 cm-1 ; 1NMR: 1.27 (3H, t, J=7.7 Hz), 1.34 (6H, m), 1.53-1.68 (4H, m), 2.36 (2H, t, J=7.1 Hz), 2.58 (2H, q, J=7.7 Hz), 2.71 (2H, t, J=7 Hz), 3.45 (2H, t, J=6.8 Hz), 3.59 (2H, t, J=7 Hz), and 10.6 ppm (lH, br s); Found: C, 58.11, H, 9.8%. Calcd for C12H24SO3 : C, 58.03, H, 9.74%.

reactant | ethyl 2-ethoxycarbonyl-9-oxa-12-thiatetradecanoate | 5.8 mmol, 2 g | C(C)OC(=O)C(C(=O)OCC)CCCCCCOCCSCC | C17H32O5S
reactant | HCl | pH 2 | Cl | ClH
solvent | NaOH | 10 mL | [OH-].[Na+]
product | 9-oxa-12-thiatetradecanoic acid | 1.4 g, 98% | C(CCCCCCCOCCSCC)(=O)O | C12H24O3S
